US06916819B2
A mixture of (2-thiazol-2-yl-2H-pyrazol-3-yl)-acetic acid ethyl ester (100 mg, 0.42 mmol), methyl iodide (66 mg, 0.46 mmol) and cesium carbonate (151 mg, 0.46 mmol) in DMF (6 mL) is stirred at room temperature overnight. The reaction is quenched with NH4Cl (aq.) (6 mL) and ethyl acetate (30 mL). The organic layer is separated and the aqueous layer is extracted with ethyl acetate (3×30 mL). The combined organic layers are dried and the solvent removed. The crude is purified by PTLC (hexane/ethyl acetate 3:1) to give 2-(2-thiazol-2-yl-2H-pyrazol-3-yl)-propionic acid ethyl ester as an oil.

reactant | (2-thiazol-2-yl-2H-pyrazol-3-yl)-acetic acid ethyl ester | 0.42 mmol, 100 mg | C(C)OC(CC=1N(N=CC1)C=1SC=CN1)=O | C10H11N3O2S
reactant | methyl iodide | 0.46 mmol, 66 mg | CI | CH3I
reactant | cesium carbonate | 0.46 mmol, 151 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-(2-thiazol-2-yl-2H-pyrazol-3-yl)-propionic acid ethyl ester | C(C)OC(C(C)C=1N(N=CC1)C=1SC=CN1)=O | C11H13N3O2S
